US05219868
0.05 g of boron trifluoride ether complex was added to a mixture of 46.4 g of 1-diethoxymethyl-2-nitroiminoimidazolidine, 27.8 g of 2-mercaptoaniline and 120 ml of 1.3-dimethyl-2-imidazolidinone under ice-cooling conditions, followed by agitation for 20 minutes. About 200 ml of ethyl acetate was added to the reaction mixture, and the resultant crystals were collected by filtration, washed with hexane and dried to give 61 g of 1-(2-methylmercaptophenyliminomethyl)-2-nitroiminoimidazolidine.

reactant | 1-diethoxymethyl-2-nitroiminoimidazolidine | 46.4 g | C(C)OC(N1C(NCC1)=N[N+](=O)[O-])OCC | C8H16N4O4
reactant | 2-mercaptoaniline | 27.8 g | SC1=C(N)C=CC=C1 | C6H7NS
reactant | 1.3-dimethyl-2-imidazolidinone | 120 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-methylmercaptophenyliminomethyl)-2-nitroiminoimidazolidine | 61 g | CSC1=C(C=CC=C1)N=CN1C(NCC1)=N[N+](=O)[O-] | C11H13N5O2S
